US05817808
2.52 g(13.75 mmol) of bromoacetyl bromide was added for 10 min below 40° C. to the solution having 1.94 g(12.5 mmol) of 2-amino-5-fluorobenzoic acid dissolved in 4 ml of dimethyl formamide. The mixed solution was stirred for 30 min, and the solution having 1.12 g of sodium hydroxide dissolved in 28 ml of water was added. The mixture was slowly heated to 60° C. for 1 hr, then maintained at about 60° C. for 1 hr, and cooled to 5° C. Finally, a crystalline solid of 7-fluoro-4,1-benzooxazepine-2,5-(1H, 3H)-dione of melting point 186° C. was obtained.

reactant | bromoacetyl bromide | 13.75 mmol, 2.52 g | BrCC(=O)Br | C2H2Br2O
reactant | 2-amino-5-fluorobenzoic acid | 12.5 mmol, 1.94 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | sodium hydroxide | 1.12 g | [OH-].[Na+]
solvent | dimethyl formamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 28 ml | O | H2O
product | 7-fluoro-4,1-benzooxazepine-2,5-(1H, 3H)-dione | FC=1C=CC2=C(C(OCC(N2)=O)=O)C1 | C9H6FNO3
